US04628057
(3RS)-2-[(Methylthio)thiocarbonyl]-1,2,3,4-tetrahydro-β-carboline-3-carboxamide
In the same manner as described in Example 53, (3RS)-1,2,3,4-tetrahydro-β-carboline-3-carboxamide (0.71 g), triethylamine (0.46 ml), carbon disulfide (0.22 ml), 70% ethanol (20 ml) and methyl iodide (0.22 ml) are reacted and treated. The product is crystallized from ethyl acetate to give the title compound (0.414 g), m.p. 224°-225° C. (decomp.).

reactant | (3RS)-1,2,3,4-tetrahydro-β-carboline-3-carboxamide | 0.71 g | C1NC(CC=2C3=CC=CC=C3NC12)C(=O)N | C12H13N3O
reactant | triethylamine | 0.46 ml | C(C)N(CC)CC | C6H15N
reactant | carbon disulfide | 0.22 ml | C(=S)=S | CS2
reactant | methyl iodide | 0.22 ml | CI | CH3I
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | (3RS)-2-[(Methylthio)thiocarbonyl]-1,2,3,4-tetrahydro-β-carboline-3-carboxamide | 0.414 g | CSC(=S)N1CC=2NC3=CC=CC=C3C2CC1C(=O)N | C14H15N3OS2
